US04564479
The procedure described in Example 26 is repeated, but using 5.05 g (25 mmols) of 4-bromonitrobenzene and 4.33 ml (27.5 mmols) of 1-octene. After a reaction time of 10 hours at 130° C. and working up as described in Example 1, distillation of the crude product gives 3.90 g (16.7 mmols) of 4-nitrophenyloctene of boiling point 140°-150° C./27 Pa in the form of a yellow liquid; yield 67% of theory (conversion figure 6700; Pd content 0.01 mol %). The product is a mixture of isomers. Analysis for C14H19NO2 (molecular weight 233.21): calculated C 70.08; H 8.21; N 6.01, found C 71.75; H 8.10; N 6.16.

reactant | 4-bromonitrobenzene | 25 mmols, 5.05 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 1-octene | 27.5 mmols, 4.33 ml | C=CCCCCCC | C8H16
product | 4-nitrophenyloctene | 16.7 mmols, 3.90 g, yield 67% | [N+](=O)([O-])C1=CC=C(C=C1)C=CCCCCCC | C14H19NO2
